US06720320B2
By the reactions in the same manner as in Starting Material Synthesis Example 1 using 2-(7-hydroxybenzo(b)furan-2-yl)-5-methyloxazole (2.0 g) obtained in Starting Material Synthesis Example 65 and (S)-glycidyl nosylate (1.8 g), (S)-7-glycidyloxy-2-(5-methyloxazol-2-yl)benzo(b)furan (1.5 g) was obtained. Then, by the reactions in the same manner as in Example 1 using 4-(naphthalen-2-yl)piperidine (0.7 g), the title compound (0.26 g) was obtained, melting point 147-149° C.

reactant | 2-(7-hydroxybenzo(b)furan-2-yl)-5-methyloxazole | 2.0 g | OC1=CC=CC2=C1OC(=C2)C=2OC(=CN2)C | C12H9NO3
reactant | (S)-glycidyl nosylate | 1.8 g | S(=O)(=O)(OC[C@@H]1CO1)C1=CC=C([N+](=O)[O-])C=C1 | C9H9NO6S
product | (S)-7-glycidyloxy-2-(5-methyloxazol-2-yl)benzo(b)furan | 1.5 g | C([C@@H]1CO1)OC1=CC=CC2=C1OC(=C2)C=2OC(=CN2)C | C15H13NO4
